US09290451B2
6-Cyclopropylmethoxy-5-trifluoromethyl-pyridine-2-carboxylic acid (1-methyl-1-thiazol-2-yl-ethyl)-amide
The title compound was synthesized in analogy to Example 1, using 6-cyclopropylmethoxy-5-trifluoromethyl-pyridine-2-carboxylic acid (Example 113 d) and α,α-dimethyl-2-thiazolemethanamine (CAN 1082393-38-1) as starting materials, MS (EI): m/e=386.0 [M+H]+.

reactant | 6-cyclopropylmethoxy-5-trifluoromethyl-pyridine-2-carboxylic acid | C1(CC1)COC1=C(C=CC(=N1)C(=O)O)C(F)(F)F | C11H10F3NO3
reactant | α,α-dimethyl-2-thiazolemethanamine | CC(N)(C=1SC=CN1)C | C6H10N2S
product | 6-Cyclopropylmethoxy-5-trifluoromethyl-pyridine-2-carboxylic acid (1-methyl-1-thiazol-2-yl-ethyl)-amide | CC(C)(C=1SC=CN1)NC(=O)C1=NC(=C(C=C1)C(F)(F)F)OCC1CC1 | C17H18F3N3O2S
